US08809382B2
Step 5: 5-(5-chloro-2-hexyl-1-methyl-1H-indol-3-yl)-3-methyl-5-oxo-N-(1-phenylethyl)pentanamide
To the solution of 6-(5-chloro-2-hexyl-1-methyl-1H-indol-3-yl)-4-methyl-2,6-dioxohexanoic acid in methylene chloride was added (R)-1-phenylethanamine followed by the addition of DCC and DMAP and was stirred for 30 minutes. The reaction mixture was treated with sodium bicarbonate and methylene chloride. The product was purified by column chromatography.

reactant | 6-(5-chloro-2-hexyl-1-methyl-1H-indol-3-yl)-4-methyl-2,6-dioxohexanoic acid | ClC=1C=C2C(=C(N(C2=CC1)C)CCCCCC)C(CC(CC(C(=O)O)=O)C)=O | C22H28ClNO4
reactant | (R)-1-phenylethanamine | C1(=CC=CC=C1)[C@@H](C)N | C8H11N
reactant | DCC | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
catalyst | DMAP | CN(C)C=1C=CN=CC1 | C7H10N2
product | 5-(5-chloro-2-hexyl-1-methyl-1H-indol-3-yl)-3-methyl-5-oxo-N-(1-phenylethyl)pentanamide | ClC=1C=C2C(=C(N(C2=CC1)C)CCCCCC)C(CC(CC(=O)NC(C)C1=CC=CC=C1)C)=O | C29H37ClN2O2
